US07084123B2
To a solution of 3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-1-isopropyl-5-methylpyrazole (0.10 g) in 2,4,6-trimethylpyridine (1 mL) was added ethyl chloroformate (0.072 g), and the mixture was stirred at room temperature overnight. To the reaction mixture were added citric acid monohydrate (3.3 g) and water, and the resulting mixture was purified by ODS solid phase extraction (washing solvent: distilled water, eluent: methanol). Further purification by column chromatography on silica gel (eluent: dichloromethane/methanol=1011) and recrystalization (recrystalization solvent: ethyl acetate/hexane=1/3) afforded 3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-1-isopropyl-5-methylpyrazole (0.084 g).

reactant | 3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-1-isopropyl-5-methylpyrazole | 0.10 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NN(C(=C1CC1=CC=C(C=C1)OC(C)C)C)C(C)C | C23H34N2O7
reactant | ethyl chloroformate | 0.072 g | ClC(=O)OCC | C3H5ClO2
reactant | citric acid monohydrate | 3.3 g | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | water | O | H2O
solvent | 2,4,6-trimethylpyridine | 1 mL | CC1=NC(=CC(=C1)C)C | C8H11N
product | 3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-1-isopropyl-5-methylpyrazole | 0.084 g | C(C)OC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)OC1=NN(C(=C1CC1=CC=C(C=C1)OC(C)C)C)C(C)C)O)O)O | C26H38N2O9
